US09085517B2
4-{[3-Chloro-4-(trifluoromethyl)phenoxy]methyl}-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide
To a solution of 4-(bromomethyl)-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide (Preparation 1, 167 mg, 0.47 mmol) in dimethylsulfoxide (2 mL) was added 2-chloro-4-hydroxybenzotrifluoride (92 mg, 0.47 mmol) followed by addition of potassium carbonate (129 mg, 0.94 mmol). The reaction was left to stir at room temperature for 18 hours. The reaction was diluted with dichloromethane (20 mL) and washed with aqueous potassium hydrogen sulfate (5 mL). The organic phase was separated and the aqueous phase extracted with dichloromethane (2×20 mL). The combined organic layers were washed with brine (30 mL) and filtered through a phase separation cartridge. The solvent was removed under reduced pressure and the crude product purified by reverse phase preparative HPLC. The correct fractions were combined and reduced to dryness to afford the title compound as white solid (23 mg, 10%).

reactant | 4-(bromomethyl)-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide | 0.47 mmol, 167 mg | BrCC1=CC(=C(C(=O)NS(=O)(=O)N(C)C)C=C1F)F | C10H11BrF2N2O3S
reactant | 2-chloro-4-hydroxybenzotrifluoride | 0.47 mmol, 92 mg | ClC1=C(C=CC(=C1)O)C(F)(F)F | C7H4ClF3O
reactant | potassium carbonate | 0.94 mmol, 129 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-{[3-Chloro-4-(trifluoromethyl)phenoxy]methyl}-N-[(dimethylamino)sulfonyl]-2,5-difluorobenzamide | 23 mg, 10% | ClC=1C=C(OCC2=CC(=C(C(=O)NS(=O)(=O)N(C)C)C=C2F)F)C=CC1C(F)(F)F | C17H14ClF5N2O4S
